Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Diplopia
 
Major Surgical or Invasive Procedure:
No

 
History of Present Illness:
Mrs. ___ is a ___ year old right handed woman with no
chronic medical conditions who neurology has been consulted
because of transient episode of diplopia. 

Mrs. ___ this morning was feeling normal, no concern for
illness.  Mrs. ___ was driving and at about 1000 and she
acutely felt that her vision was off.  Mrs. ___ pulled her
car to the side of the road and when she gathered herself she
noticed that she had double vision.  Mrs. ___ appreciated
this because she noticed that there were two people walking
towards her and felt that each person had two heads on top of
each other because of the vertical double vision.  Mrs.
___ double vision lasted for one to two minutes.  She
feels as if the resolution of her double vision was gradual over
one to two minutes.  Mrs. ___ did not think to check each
eye individually to determine if her double vision was binocular
versus monocular.  There was never loss of vision or
scintillations/photopsias.  

Mrs. ___ denies sensation of abnormal heart rhythm before
her event.  She denies recent trauma to the head or whiplash. 
Mrs. ___ denies history of headaches and has not had a
headache today.  Mrs. ___ may have had some intermittent
dizziness since onset of her symptoms, but feels as if this is
possibly secondary to anxiety.  She denies that she ever
appreciated vertigo.  No incoordination.  Mrs. ___ did not
speak during the episode so it is uncertain if her voice/speech
was altered.  She currently feels generally weak, but no focal
weakness.  She denies sensory changes. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
None, she regularly sees a doctor
 
Social History:
___
Family History:
Mrs. ___ mother has had TIAs/small strokes over the last
year or so.  She is ___.  Mrs. ___ father died recently 
of
complications of Parkinsonism.  He had no history of strokes.
 
Physical Exam:
Presentation vitals: 
Temperature: 98
Pulse: 66
Heart rate: 148/87
Respiratory rate: 18
Oxygen saturation: 94%

General examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Mental status:  
She is awake, alert, and cooperative with the exam.  She is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  She is oriented to place and date. 
Language is fluent.  Memory for recent and remote history is
intact.  
Cranial nerves:  
Fundoscopic exam reveals sharp disc margins bilaterally.  Pupils
are equal and reactive.  Extraocular movements are full.  Facial
sensation and movement are intact and symmetric.  Hearing is
intact to finger rub bilaterally.  Palate elevates 
symmetrically.
SCM and trapezius are full strength bilaterally.  Tongue is
midline.  
Motor:  
Strength is full.  Tone is normal.  She has no pronator drift or
orbiting.  
Sensation:  
Crude touch is appreciated symmetrically throughout.  Position
sense is intact in the toes bilaterally.  
Coordination:  
Finger-nose-finger and finger-to-nose are intact without
dysmetria bilaterally.  
Reflexes:  
2 and symmetric.  Toes are downgoing bilaterally.  
Gait:  Narrow based with normal step height, stride length, arm 
swing,
and turns.  She is able to walk in tandem.

Discharge physical exam

General examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Mental status:  
She is awake, alert, and cooperative with the exam.  She is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  She is oriented to place and date. 
Language is fluent.  Memory for recent and remote history is
intact.  
Cranial nerves:  
Fundoscopic exam reveals sharp disc margins bilaterally.  Pupils
are equal and reactive.  Extraocular movements are full.  Facial
sensation and movement are intact and symmetric.  Hearing is
intact to finger rub bilaterally.  Palate elevates 
symmetrically.
SCM and trapezius are full strength bilaterally.  Tongue is
midline.  Occasionally right eye monocular diplopia can be 
appreciated.
Motor:  
Strength is full.  Tone is normal.  She has no pronator drift or
orbiting.  
Sensation:  
Crude touch is appreciated symmetrically throughout.  Position
sense is intact in the toes bilaterally.  
Coordination:  
Finger-nose-finger and finger-to-nose are intact without
dysmetria bilaterally.  
Reflexes:  
2 and symmetric.  Toes are downgoing bilaterally.  
Gait:  
Narrow based with normal step height, stride length, arm swing,
and turns.  She is able to walk in tandem.

 
Pertinent Results:
___ 06:45AM BLOOD WBC-5.8 RBC-4.07 Hgb-12.9 Hct-39.7 MCV-98 
MCH-31.7 MCHC-32.5 RDW-12.6 RDWSD-45.1 Plt ___
___ 12:11PM BLOOD WBC-6.2 RBC-4.24 Hgb-13.5 Hct-41.7 MCV-98 
MCH-31.8 MCHC-32.4 RDW-12.5 RDWSD-44.9 Plt ___
___ 12:11PM BLOOD Neuts-75.3* Lymphs-17.0* Monos-5.5 
Eos-0.6* Baso-1.0 Im ___ AbsNeut-4.64 AbsLymp-1.05* 
AbsMono-0.34 AbsEos-0.04 AbsBaso-0.06
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD ___ PTT-31.5 ___
___ 12:11PM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-83 UreaN-18 Creat-0.9 Na-143 
K-4.4 Cl-102 HCO3-26 AnGap-15
___ 12:11PM BLOOD Glucose-95 UreaN-15 Creat-0.8 Na-143 
K-3.8 Cl-103 HCO3-29 AnGap-11
___ 06:45AM BLOOD ALT-14 AST-22 CK(CPK)-88 AlkPhos-52 
TotBili-1.0
___ 12:11PM BLOOD ALT-17 AST-27 AlkPhos-56 TotBili-1.1
___ 06:45AM BLOOD Calcium-9.3 Phos-4.6* Mg-2.1 Cholest-228*
___ 12:11PM BLOOD Albumin-4.5 Calcium-9.4 Phos-3.6 Mg-2.1
___ 06:45AM BLOOD %HbA1c-5.3 eAG-105
___ 06:45AM BLOOD Triglyc-91 HDL-60 CHOL/HD-3.8 
LDLcalc-150*
___ 12:37PM BLOOD TSH-1.5
___ 06:45AM BLOOD TSH-2.3
___ 12:11PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

 
Brief Hospital Course:
___ year old with no past medical history who presented with 
several minutes of vertical diplopia admitted for TIA work-up. 
By history, it was uncertain whether the episode was monocular 
as patient did not try to cover one eye. She also had a sense of 
motion during the event. No headache. CT/CTA were normal as was 
MRI brain. Her ABCD2 score was 2 for SBP >140 on admission, but 
then this normalized. TTE was normal. Ziopatch was placed for 
long term monitoring. LDL = 150 and HbA1c 5.3. Pt was started on 
atorvastatin 40 mg daily and aspirin 81 mg daily. TSH was also 
checked and came back 2.3. On exam on day of discharge, she had 
essentially normal exam although with some blurred vision on 
extreme end gaze that did not improve with covering one eye. 
___ grid was normal. Episode may have been TIA, less likely 
migraine given age and only questionable history of one lifetime 
reintal migraine. Primary ocular process still possible given 
unclear if monocular or binocular. She should follow-up with 
neurology as outpatient (Atrius patient).
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of double vision 
(diplopia) possibly resulting from an TIA, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:

- Hyperlipidemia 

We are changing your medications as follows:
Start aspirin 81 mg daily
Start atorvastatin 40 mg daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below. You will be referred to neurology through your 
primary care given you are an ___ patient.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___